US08222274B2
A 230 mg portion of benzyl 4-{4-{[(diaminomethylene)amino]carbonyl}-1-[2-(4-fluorophenyl)ethyl]-5-methyl-1H-pyrrol-2-yl}piperidine-1-carboxylate was dissolved in 5 ml of ethanol, 45 mg of 10% palladium-activated carbon was added, followed by stirring at room temperature for 5 hours under an atmosphere of hydrogen. After adding chloroform to the reaction liquid, the insoluble matter was separated by celite filtration, and the filtrate was concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (Chromatorex (registered trademark), methanol:chloroform=10:90). The resulting product was dissolved in 3 ml of ethanol, and 0.269 ml of 4 M hydrogen chloride/ethyl acetate was added under ice-cooling, followed by stirring overnight at room temperature. The resulting solid was collected by filtration to obtain 95 mg of N-(diaminomethylene)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-piperidin-4-yl-1H-pyrrole-3-carboxamide dihydrochloride as a white solid.

reactant | benzyl 4-{4-{[(diaminomethylene)amino]carbonyl}-1-[2-(4-fluorophenyl)ethyl]-5-methyl-1H-pyrrol-2-yl}piperidine-1-carboxylate | NC(N)=NC(=O)C=1C=C(N(C1C)CCC1=CC=C(C=C1)F)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C28H32FN5O3
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium-activated carbon | 45 mg | [Pd] | Pd
product | N-(diaminomethylene)-1-[2-(4-fluorophenyl)ethyl]-2-methyl-5-piperidin-4-yl-1H-pyrrole-3-carboxamide dihydrochloride | 95 mg | Cl.Cl.NC(=NC(=O)C1=C(N(C(=C1)C1CCNCC1)CCC1=CC=C(C=C1)F)C)N | InChI=1S/C20H26FN5O.2ClH/c1-13-17(19(27)25-20(22)23)12-18(15-6-9-24-10-7-15)26(13)11-8-14-2-4-16(21)5-3-14;;/h2-5,12,15,24H,6-11H2,1H3,(H4,22,23,25,27);2*1H
